US04171359
1,2,3,4-Tetrafluorobenzene (67.7 g), sodium hydrobromide (20.8 g), and 200 ml of ethyleneglycol are refluxed with good stirring for 3 hours. The reaction mixture is poured into water (800 ml), acidified with 10% hydrochloric acid and then extracted with ether. The ether is washed with dilute sodium hydroxide and water, and then distilled under vacuum to give 2-(2,3,6-trifluorophenoxy) ethanol), b.p. about 100° at 15 min.

reactant | 1,2,3,4-Tetrafluorobenzene | 67.7 g | FC1=C(C(=C(C=C1)F)F)F | C6H2F4
reactant | sodium hydrobromide | 20.8 g | Br.[Na]
reactant | ethyleneglycol | 200 ml | C(CO)O | C2H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 800 ml | O | H2O
product | 2-(2,3,6-trifluorophenoxy) ethanol | FC1=C(OCCO)C(=CC=C1F)F | C8H7F3O2
